US08252935B2
A solution of a mixture of 4-methyl-2-{5-[1-(4-methyl-pent-2-enyl)-piperidin-4-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester and methyl ester (69a) (25 mg, 0.05 mmol) in MeOH (2.0 mL) was flushed with N2. To this was added 10% Pd/C (5 mg). The suspension was hydrogenated at 20 psi for 4 h at room temperature. It was filtered through celite and the solid was washed with EtOAc. The filtrate was dried (MgSO4) and concentrated in vacuo to obtain 4-methyl-2-{5-[1-(4-methyl-pentyl)-piperidin-4-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester and methyl ester. Calcd for C31H42F3NO2 (M+H) 518.67, Found 518.3 (methyl ester) and Calcd for C32H44F3NO2 (M+H) 532.69, Found 532.4 (ethyl ester).

reactant | 4-methyl-2-{5-[1-(4-methyl-pent-2-enyl)-piperidin-4-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CCN(CC1)CC=CC(C)C)C1=CC=C(C=C1)C(F)(F)F)=O | C32H42F3NO2
solvent | MeOH | 2.0 mL | CO | CH4O
product | 4-methyl-2-{5-[1-(4-methyl-pentyl)-piperidin-4-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CCN(CC1)CCCC(C)C)C1=CC=C(C=C1)C(F)(F)F)=O | C32H44F3NO2
